US04009184
2-Phenyl-3-[3-(diethylamino)propionyl]benzofuran.
To a solution of 47.2 grams of 2-phenyl-3-acetyl benzofuran in 150 milliliters of isopropanol, were added 8.4 grams of paraformaldehyde, 30.8 grams of diethylamine hydrochloride and 3 milliliters of a saturated solution of hydrogen chloride in ethanol and the mixture was heated at its boiling point under reflux for 8 hours. The solvent was then evaporated from the mixture under vacuum and the residue was triturated with water and the insoluble portion thereof was extracted therefrom with ethyl ether. The aqueous solution was made alkaline by the addition of a 5% aqueous sodium hydroxide solution and the oily base which separated was extracted with ethyl ether. After drying the ether extract over anhydrous sodium sulfate a solution of hydrogen chloride in ethanol was added thereto and the crystalline hydrochloride of the compound named in the heading of this example precipitated. The crystals thus obtained were recrystallized in a mixture of ethanol and ethyl ether. In this manner, 34.2 grams of the recrystallized hydrochloride, which had a melting point of 113°-115°C, was obtained.

reactant | 2-phenyl-3-acetyl benzofuran | 47.2 grams | C1(=CC=CC=C1)C=1OC2=C(C1C(C)=O)C=CC=C2 | C16H12O2
reactant | paraformaldehyde | 8.4 grams | C=O | CH2O
reactant | diethylamine hydrochloride | 30.8 grams | Cl.C(C)NCC
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 150 milliliters | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 2-Phenyl-3-[3-(diethylamino)propionyl]benzofuran | C1(=CC=CC=C1)C=1OC2=C(C1C(CCN(CC)CC)=O)C=CC=C2 | C21H23NO2
